US04645771
1,2,3,6-Tetrahydropyridine (5.0 g.) was added to a mixture of 2-cyanobenzyl bromide (11.8 g.) and potassium carbonate (9.16 g.) in ethanol (80 ml.). The mixture obtained was heated under reflux for 2.5 hours, cooled and evaporated. Water (120 ml.) was added to the residue and the oily mixture obtained was extracted with ether (3×50 ml.). The combined extracts were washed with water, dried (MgSO4) and evaporated. The residue oil was dissolved in toluene (20 ml.) to give a solution, which was treated with a slight excess of methanolic hydrogen chloride. The mixture was evaporated and the solid residue which was left was triturated with acetone, collected by filtration, and recrystallised from a mixture of ethanol and ethyl acetate to give 1-(2-cyanobenzyl)-1,2,3,6-tetrahydropyridine hydrochloride, as colourless needles (7.1 g), m.p. 219°-221° C.

reactant | 1,2,3,6-Tetrahydropyridine | 5.0 g | N1CCC=CC1 | C5H9N
reactant | 2-cyanobenzyl bromide | 11.8 g | C(#N)C1=C(CBr)C=CC=C1 | C8H6BrN
reactant | potassium carbonate | 9.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 1-(2-cyanobenzyl)-1,2,3,6-tetrahydropyridine hydrochloride | Cl.C(#N)C1=C(CN2CCC=CC2)C=CC=C1 | InChI=1S/C13H14N2.ClH/c14-10-12-6-2-3-7-13(12)11-15-8-4-1-5-9-15;/h1-4,6-7H,5,8-9,11H2;1H
